US04294960
A suspension of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 1.8 g.) and 10% palladium carbon (0.9 g.) in methanol (20 ml.) and tetrahydrofuran (20 ml.) was treated in a similar manner to that of Example 21-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.0 g.).

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylate | 1.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(F)(F)F | C22H16ClF3N6O8S2
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 0.9 g | [C].[Pd]
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCC(F)(F)F | C15H11ClF3N5O6S2
